US07473786B1
2-(4-Methoxy-phenyl)-benzo[b]furan (entry 3, Table 2):
The general procedure was used to convert 4-ethynyl-anisole and 2-iodophenol to the title product. Purification by flash chromatography (20% ethyl acetate in hexanes as the eluent) gave the analytically pure product as a white solid (277 mg, 62% yield). 1H NMR (300 MHz, CDCl3) δ 7.77 (d, J=8.48, 2H), 7.54-7.47 (m, 2H), 7.34-7.20 (m, 2H), 6.95 (d, 2H), 6.85 (s, 1H), 3.82 (s, 3H). 13C NMR (75 MHz, CDCl3) δ 159.95, 156.03, 154.68, 129.49, 126.39, 123.72, 123.31, 122.81, 120.55, 114.22, 110.97, 99.65, 55.31 Anal. Calcd. for C15H12O2: C, 80.34; H, 5.39. Found C, 80.34; H, 5.40. m.p.: 149-150° C. (lit., 3146-147° C.).

reactant | 4-ethynyl-anisole | C(#C)C1=CC=C(C=C1)OC | C9H8O
reactant | 2-iodophenol | IC1=C(C=CC=C1)O | C6H5IO
product | 2-(4-Methoxy-phenyl)-benzo[b]furan | COC1=CC=C(C=C1)C1=CC2=C(O1)C=CC=C2 | C15H12O2
